US09301951B2
(S)—N1-(4-(diethylamino)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)-N3-(2-hydroxyethyl)-N3-methylisophthalamide
This compound was prepared according to the procedure described for the synthesis of (S)—N1-(4-(diethylamino)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)-N3-methyl-N3-(2-morpholinoethyl)isophthalamide Example 131, using 2-(methylamino)ethanol in place of N-methyl-2-morpholinoethanamine. MS (ES, m/z): 620.32 [M+H]+.

reactant | (S)—N1-(4-(diethylamino)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)-N3-methyl-N3-(2-morpholinoethyl)isophthalamide | C(C)N(C1=CC(=C(C=C1)NC(C1=CC(C(=O)N(CCN2CCOCC2)C)=CC=C1)=O)C1=NC=CC(=C1)C(N[C@H]1CCCC2=CC=CC=C12)=O)CC | C41H48N6O4
reactant | 2-(methylamino)ethanol | CNCCO | C3H9NO
product | (S)—N1-(4-(diethylamino)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)-N3-(2-hydroxyethyl)-N3-methylisophthalamide | C(C)N(C1=CC(=C(C=C1)NC(C1=CC(C(=O)N(C)CCO)=CC=C1)=O)C1=NC=CC(=C1)C(N[C@H]1CCCC2=CC=CC=C12)=O)CC | C37H41N5O4
